* Z:\home\max\TU\rollin\GEN\UE07\ltspice\assignment7.asc
V1 N001 0 PULSE(0 2.5 0 0 4m 0 4m 1)
R1 N002 N001 100
R2 N002 N003 100
R3 N003 0 300
C1 N002 0 25µ
.tran .016
.backanno
.end
