* Z:\home\max\TU\rollin\GEN\UE07\ltspice\assignment7.asc
V1 u_in 0 PULSE(0 2.5 0 0 4m 0 4m 1)
R1 u_cap u_in 100
R2 u_cap N001 100
R3 N001 0 300
C1 u_cap 0 25µ
.tran .016
.backanno
.end
